US08071584B2
8,8-Dimethyl-3-oxo-8-azoniabicyclo[3.2.1]octane iodide.
To a stirred solution of N-methylpiperidone (20.0 g, 143.7 mmol) in 150 mL of ether was added dropwise methyliodide (22.4 g, 158.1 mmol) in 100 mL of ether. The exothermic reaction was controlled by the rate of addition of methyl iodide and the mixture was stirred overnight after the addition. The white solid was filtered off by suction and dried in an oven, giving 35.0 g (86.6%) of the title compound.

reactant | N-methylpiperidone | 143.7 mmol, 20.0 g | CN1C(CCCC1)=O | C6H11NO
reactant | methyliodide | 158.1 mmol, 22.4 g | CI | CH3I
reactant | ether | 150 mL | CCOCC | C4H10O
reactant | ether | 100 mL | CCOCC | C4H10O
product | 8,8-Dimethyl-3-oxo-8-azoniabicyclo[3.2.1]octane iodide | 35.0 g, 86.6% | [I-].C[N+]1(C2CC(CC1CC2)=O)C | InChI=1S/C9H16NO.HI/c1-10(2)7-3-4-8(10)6-9(11)5-7;/h7-8H,3-6H2,1-2H3;1H/q+1;/p-1
